US04540818
15.3 g (0.05 mol) of 3,4'-dinitro-4-chlorobenzophenone, 0.75 g of 5% Pd/C and 50 ml of ethyl cellosolve were charged in a closed glass vessel equipped with a thermometer and a stirrer. While stirring the mixture at a temperature of 75° to 80° C., hydrogen was introduced thereinto and 10.3 l (0.46 mol) of hydrogen was absorbed in 13 hours. Since no more absorption of hydrogen was observed, the reaction was terminated at this point. The reaction solution was neutralized with 3.6 g (0.06 mol) of 28% aqueous ammonia. The catalyst was removed by filtration. The filtrate was concentrated to obtain 3,4'-diaminodiphenylmethane as a brown oil. A high performance liquid chromatography revealed that the purity was 88.2%.

reactant | 3,4'-dinitro-4-chlorobenzophenone | 0.05 mol, 15.3 g | [N+](=O)([O-])C=1C=C(C(=O)C2=CC=C(C=C2)[N+](=O)[O-])C=CC1Cl | C13H7ClN2O5
reactant | hydrogen | [H][H] | H2
reactant | hydrogen | 0.46 mol, 10.3 l | [H][H] | H2
reactant | ammonia | 0.06 mol, 3.6 g | N | H3N
catalyst | Pd/C | 0.75 g | [Pd] | Pd
solvent | ethyl cellosolve | 50 ml | CCOCCO | C4H10O2
product | 3,4'-diaminodiphenylmethane | C1=CC(=CC(=C1)N)CC2=CC=C(C=C2)N | C13H14N2
